US05326905
A mixture of 4.8 g of 4-benzoylbenzyl bromide and triethylphosphite was heated at 125° C. for 0.5 hours and cooled to room temperature. The resulting oil was purified by flash chromatography (70% ethyl acetate/hexanes) to afford 3.2 g of diethyl 4-benzoylbenzylphosphonic acid, as an oil. A mixture of 3.2 g (9.6 mmol) of diethyl 4-benzoylbenzylphosphonic acid and 40 ml of concentrated hydrochloric acid was refluxed for 7 hours and cooled to room temperature. The two phase mixture was partitioned between 125 ml of water and 400 ml of EtOAc, the EtOAc layer was dried over Na2SO4, filtered and evaporated to give 0.7 g of product; m.p. 172°-175° C.

reactant | 4-benzoylbenzyl bromide | 4.8 g | C(C1=CC=CC=C1)(=O)C1=CC=C(CBr)C=C1 | C14H11BrO
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl 4-benzoylbenzylphosphonic acid | 3.2 g | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C18H21O4P
